US05635510
66.1 Synthesis of 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide
Prepare by the method of Example 20.9 using 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (1.6 g, 5.2 mmol) and 4-methylpiperazine (1.2 mL, 10.5 mmol) to give the title compound: Rf =0.54 (silica gel, 10% methanol/dichloromethane).

reactant | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | 5.2 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | 4-methylpiperazine | 10.5 mmol, 1.2 mL | CN1CCNCC1 | C5H12N2
product | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C17H23NO4.C6H13N3O/c1-16(2,3)22-15(21)18-11-9-17(10-12-18,14(19)20)13-7-5-4-6-8-13;1-8-2-4-9(5-3-8)6(7)10/h4-8H,9-12H2,1-3H3,(H,19,20);2-5H2,1H3,(H2,7,10)
